US04382939
3-[2-[Ethyl(2-methylpropyl)amino]propyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described in Example 73 from 3-[2-(ethylamino)propyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride (6.7 g, 0.016 moles), sodium acetate (2.6 g, 0.032 moles), sodium borohydride (3.3 g, 0.087 moles), and 2-methylpropionic acid (28.5 g, 0.32 moles) instead of acetic acid. Several recrystallizations from diisopropyl ether yielded the final product as the free base (1.4 g), mp 108°-111° C.

reactant | 3-[2-(ethylamino)propyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride | 0.016 moles, 6.7 g | Cl.Cl.C(C)NC(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C(=C1)OC)OC)C
reactant | sodium acetate | 0.032 moles, 2.6 g | C(C)(=O)[O-].[Na+]
reactant | sodium borohydride | 0.087 moles, 3.3 g | [BH4-].[Na+]
reactant | 2-methylpropionic acid | 0.32 moles, 28.5 g | CC(C(=O)O)C | C4H8O2
product | 3-[2-[Ethyl(2-methylpropyl)amino]propyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | C(C)N(C(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C(=C1)OC)OC)C)CC(C)C | C23H34N2O4
